US05028605
1.17 g (9.2 mmol) of 1,3-dichloroacetone is added dropwise to a solution of 2 g (9.2 mmol) of 2-amino-5-bromo-3-dimethylaminopyrazine. After 3 hours under reflux, the alcohol is evaporated off under reduced pressure and the residue taken up with water, alkalinized and extracted with dichloromethane. After purification by chromatography, 6-bromo-2-chloromethyl-8-dimethylaminoimidazo[1,2-a]pyrazine is obtained.

reactant | 1,3-dichloroacetone | 9.2 mmol, 1.17 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 2-amino-5-bromo-3-dimethylaminopyrazine | 9.2 mmol, 2 g | NC1=NC=C(N=C1N(C)C)Br | C6H9BrN4
product | 6-bromo-2-chloromethyl-8-dimethylaminoimidazo[1,2-a]pyrazine | BrC=1N=C(C=2N(C1)C=C(N2)CCl)N(C)C | C9H10BrClN4
